US05034393
Pyrido[3,4-d]pyrimidin-4(3H)one
A mixture of 4 g of 3-amino-pyridine-4-carboxylic acid in 15 mL of formamide was heated in an oil bath to 160-180° C. After one hour the mixture was allowed to cool. Then, the mixture was slurried in 25 mL of water and filtered. The product was recrystallized from water. Yield 3.3 g. M.P. 317° C. (with sublimation).

reactant | 3-amino-pyridine-4-carboxylic acid | 4 g | NC=1C=NC=CC1C(=O)O | C6H6N2O2
reactant | formamide | 15 mL | C(=O)N | CH3NO
solvent | water | 25 mL | O | H2O
product | Pyrido[3,4-d]pyrimidin-4(3H)one | N1=CNC(C2=C1C=NC=C2)=O | C7H5N3O
